US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide (556.9 mg, 1.17 mmol) and acetic anhydride (0.13 ml, 1.41 mmol), the procedure of Inventive Example 94 was repeated to obtain 476.8 mg (78.7%) of the title compound in the form of colorless powder.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide | 1.17 mmol, 556.9 mg | NC1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | acetic anhydride | 1.41 mmol, 0.13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide | 476.8 mg, 78.7% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C30H32FN3O4
